US07846956B2
{[2-(2-Propynyloxy)-1,3-thiazol-5-yl]methyl}malononitrile
Then, the resulting {[2-(2-propynyloxy)-1,3-thiazol-5-yl]methylidene}malononitrile was dissolved in 20 ml of ethanol, and a suspension of 0.09 g of sodium borohydride in 1 ml of ethanol was added dropwise. The mixture was stirred at room temperature for 1 hour. After 10 ml of 3% hydrochloric acid was added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 1.55 g of {[2-(2-propynyloxy)-1,3-thiazol-5-yl]methyl}.

reactant | {[2-(2-propynyloxy)-1,3-thiazol-5-yl]methylidene}malononitrile | C(C#C)OC=1SC(=CN1)C=C(C#N)C#N | C10H5N3OS
reactant | sodium borohydride | 0.09 g | [BH4-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | {[2-(2-Propynyloxy)-1,3-thiazol-5-yl]methyl}malononitrile | C(C#C)OC=1SC(=CN1)CC(C#N)C#N | C10H7N3OS
